US04604397
To a suspension of 20 g of 4-(3-aminopropyl)-6-methoxy-2H-[1]-benzopyran hydrochloride in 200 ml of ethyl acetate is added 12.5 g of bromine at room temperature. After 15 minutes at room temperature 24 g of triethylamine is added to yield 4-(3-aminopropylidene)-3-bromo-6-methoxy-2H-[1]-benzopyran and the reaction mixture is refluxed for 2 hours. After washing with water and drying the solvent is removed in vacuo. The residue is dissolved in ethanol and acidified with ethanolic hydrogen chloride to afford 9-methoxy-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine hydrochloride, m.p. 285°-286°.

reactant | 4-(3-aminopropyl)-6-methoxy-2H-[1]-benzopyran hydrochloride | 20 g | Cl.NCCCC1=CCOC2=C1C=C(C=C2)OC
reactant | bromine | 12.5 g | BrBr | Br2
reactant | triethylamine | 24 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3-aminopropylidene)-3-bromo-6-methoxy-2H-[1]-benzopyran | NCCC=C1C(COC2=C1C=C(C=C2)OC)Br | C13H16BrNO2
